US05420151
c) (R)-3-(N-Isopropylamino)-5-methoxychroman (V)
(R)-3-Amino-5-methoxychroman (1.0 g; 6mmol) and acetone (2.5 g; 40 mmol) were mixed with methanol (820 ml), acetic acid (0.4 g; 6.6 mmol) and NaCNBH3 (1.2 g; 19 mmol), pH was adjusted to 6.0 with acetic acid. Stirring was continued at room temperature for 3 days. The mixture was evaporated and the residue was made alkaline and extracted with CH2Cl2. After drying (Na2SO4) and evaporation the title compound as base was transformed to the HCl-salt. Yield: 1.1 g (83%). Mp: 289° dec. [α]D25 =-29° (C=0.015; MeOH)

reactant | (R)-3-Amino-5-methoxychroman | 6mmol, 1.0 g | N[C@H]1COC2=CC=CC(=C2C1)OC | C10H13NO2
reactant | acetone | 40 mmol, 2.5 g | CC(=O)C | C3H6O
reactant | NaCNBH3 | 19 mmol, 1.2 g | [BH3-]C#N.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 820 ml | CO | CH4O
solvent | acetic acid | 6.6 mmol, 0.4 g | C(C)(=O)O | C2H4O2
product | (R)-3-(N-Isopropylamino)-5-methoxychroman | C(C)(C)N[C@H]1COC2=CC=CC(=C2C1)OC | C13H19NO2
